US07906677B2
N-(2′-Chloro-6′-methylphenyl)-5-ethyloxindole
In a flask are mixed N-(2′-chloro-6′-methylphenyl)-N-chloroacetyl-4-ethylaniline (2.08 g) are mixed with aluminum trichloride (1.16 g) and the mixture is flushed with nitrogen. The flask is introduced into an oil bath (155-160° C.) and the mixture is stirred under a stream of nitrogen for 4.5 hours. The mixture is slightly cooled to about 100° C., treated with toluene (30 ml) and 1N HCl (20 ml) and stirred for 30 minutes while the temperature decreases gradually. After phase separation, the organic phase is washed with 1N HCl and water, dried (magnesium sulfate) and evaporated. The residue is chromatographed on silica (86 g) using toluene containing 5-20% isopropyl acetate as eluent affording the title product.

reactant | N-(2′-chloro-6′-methylphenyl)-N-chloroacetyl-4-ethylaniline | 2.08 g | ClC1=C(C(=CC=C1)C)N(C1=CC=C(C=C1)CC)C(CCl)=O | C17H17Cl2NO
reactant | aluminum trichloride | 1.16 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | N-(2′-Chloro-6′-methylphenyl)-5-ethyloxindole | ClC1=C(C(=CC=C1)C)N1C(CC2=CC(=CC=C12)CC)=O | C17H16ClNO
